US07399867B2
6-Methoxy-2-(4-methanesulfonylphenyl)-1-(4-iodophenoxy)naphthalene
Place 6-methoxy-2-(4-methanesulfonylphenyl)-1-(4-aminophenoxy)naphthalene hydrochloride (1 eq.), iodine (0.6 eq.), copper iodide (1.05 eq.) and acetonitrile in a 3 neck flask equipped with a mechanical stirrer, addition funnel, nitrogen purge and temperature probe. Charge the addition funnel with isoamylnitrite (1.1 eq.) in acetonitrile and add this mixture dropwise at 20° C. or below. After the addition, stir the mixture for 1 hour. Once the reaction is complete, add saturated sodium thiosulfate and methylene chloride to the mixture and stir for 1 hour. Filter the reaction mixture and separate the layers. Concentrate the organic layer to form a solid. Purify the solid on silica gel to afford the title compound.

reactant | 6-methoxy-2-(4-methanesulfonylphenyl)-1-(4-aminophenoxy)naphthalene hydrochloride | 1 eq. | Cl.COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)N)C1=CC=C(C=C1)S(=O)(=O)C
reactant | iodine | 0.6 eq. | II | I2
reactant | isoamylnitrite | 1.1 eq. | C(CC(C)C)ON=O | C5H11NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | copper iodide | 1.05 eq. | [Cu](I)I
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-Methoxy-2-(4-methanesulfonylphenyl)-1-(4-iodophenoxy)naphthalene | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)I)C1=CC=C(C=C1)S(=O)(=O)C | C24H19IO4S
